US04226996
1-azatricyclo (6.2.2.02,7)-4-phenyl dodecan-5-one.
To a solution prepared from 3 g sodium metal in 100 ml absolute methanol there was added 45 g methyl benzyl ketone. The resulting solution was refluxed for 30 minutes, cooled to 0° C. and 39 g 2-methylene-3-quinolidinone was added. The solution was stirred at ambient temperature during 48 hours, netralized by the addition of 3 ml acetic acid and the solvents were removed under reduced pressure. There was obtained a crude oil which was extracted with chloroform. After evaporation of the solvent there was obtained 52 g (a yield of 60%) of the desired product, M.P. from acetone, 125.7° C. Treatment with hydrochloric acid gave the corresponding hydrochloride salt, M.P. above 300° C. (dec.).

reactant | sodium | 3 g | [Na] | Na
reactant | methyl benzyl ketone | 45 g | C(C1=CC=CC=C1)C(=O)C | C9H10O
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 100 ml | CO | CH4O
product | 4-phenyl dodecan-5-one | yield of 60% | C1(=CC=CC=C1)C(CCC)C(CCCCCCC)=O | C18H28O
